US07402595B2
[Step 1] To a solution (100 ml) of 2-benzoyl-4-chlorobenzoic acid (7.0 g) in THF were added 4-[(2-hydroxypropylamino)methyl]benzoic acid methyl ester (6.0 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (7.7 g), 1-hydroxy-1H-benzotriazole monohydrate (4.1 g), acetonitrile (100 ml) and triethylamine (20 ml) at room temperature. The reaction mixture was stirred at room temperature for 12 hrs. and concentrated under reduced pressure. Saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water, 1N-hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-hexane:ethyl acetate=1:2) to give 4-[[(2-benzoyl-4-chlorobenzoyl)(2-hydroxypropyl)amino]methyl]benzoic acid methyl ester (6.7 g). [Step 2] To a solution (64 ml) of 4-[[(2-benzoyl-4-chlorobenzoyl)(2-hydroxypropyl)amino]methyl]benzoic acid methyl ester (6.4 g) in DMSO was added triethylamine (16 ml), and pyridine sulfur trioxide complex (8.7 g) was added at room temperature. The mixture was stirred for 1 hr. and added to water. 10% Hydrochloric acid was added to acidify the aqueous layer and the mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-hexane:ethyl acetate=1:2) to give 4-[[(2-benzoyl-4-chlorobenzoyl)(2-oxopropyl)amino]methyl]benzoic acid methyl ester (5.8 g). [Step 3] To a solution (60 ml) of 4-[[(2-benzoyl-4-chlorobenzoyl)(2-oxopropyl)amino]methyl]benzoic acid methyl ester (5.6 g) in THF were added methanol (60 ml) and 1,8-diazabicyclo[5.4.0]undeca-7-ene (3.7 g), and the mixture was heated under reflux for 72 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate. The organic layer was washed with 1N-hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crystals were washed with methanol to give the title compound (3.1 g).

reactant | 2-benzoyl-4-chlorobenzoic acid | 100 ml, 7.0 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Cl | C14H9ClO3
reactant | 4-[(2-hydroxypropylamino)methyl]benzoic acid methyl ester | 6.0 g | COC(C1=CC=C(C=C1)CNCC(C)O)=O | C12H17NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.7 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 4.1 g | O.ON1N=NC2=C1C=CC=C2
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-[[(2-benzoyl-4-chlorobenzoyl)(2-hydroxypropyl)amino]methyl]benzoic acid methyl ester | 6.7 g | COC(C1=CC=C(C=C1)CN(CC(C)O)C(C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O)=O | C26H24ClNO5
